US07241792B2
(R,Z)-4-(hex-3-enyl)-2,2-dimethyl-1,3-dioxolane (5.95 g, 32.3 mmol) was stirred in 80% aq. AcOH (50 mL) for 20 h. The mixture was concentrated in vacuo and purified by silica gel chromatography (40% EtOAc in hexanes gradient to 70% EtOAc in hexanes) to give (R,Z)-oct-5-ene-1,2-diol as a clear oil. 1H NMR (400 MHz, CDCl3): δ 5.45 (1H, m), 5.36 (1H, m), 3.75 (1H, m), 3.67 (1H, dd, J=10.8, 2.8 Hz), 3.45 (1H, dd, J=11.2, 7.6 Hz), 2.16 (2H, m), 2.04 (2H, m), 1.50 (2H, m), 0.96 (3H, t, J=7.6 Hz).

reactant | (R,Z)-4-(hex-3-enyl)-2,2-dimethyl-1,3-dioxolane | 32.3 mmol, 5.95 g | C(C\C=C/CC)[C@H]1OC(OC1)(C)C | C11H20O2
solvent | AcOH | 50 mL | CC(=O)O | C2H4O2
product | (R,Z)-oct-5-ene-1,2-diol | C([C@@H](CC\C=C/CC)O)O | C8H16O2
